US07935702B2
4. [7-(6-Methoxy-3-trifluoromethyl-pyridin-2-yl)-[1,8]naphthyridin-4-yl]-(5-trifluoromethyl-pyridin-2-yl)-amine
To a de-gassed mixture of 5-chloro-2-(6-methoxy-3-trifluoromethyl-pyridin-2-yl)-[1,8]naphthyridine (68 mg, 0.2 mmol), cesium carbonate (98 mg, 0.3 mmol), 2-amino-5-trifluoromethylpyridine (37 mg, 0.22 mmol) in dioxane (5 mL) under nitrogen, add Pd2 dba3 (12 mg) and xantphos (8 mg). Stir the mixture at 100° C. for 14 hours, cool, add water (20 mL) and extract with EtOAc. Dry the combined extracts over Na2SO4, concentrate under vacuum. Purify by chromatography eluting with DCM/MeOH/ammonium hydroxide mixture to give the title compound. 1H NMR δ (CDCl3) 9.01 (1H, brs), 8.59-8.62 (2H, m), 7.98-8.01 (2H, m), 7.91-7.84 (2H, m), 7.23-7.26 (2H, m), 6.90 (1H, d), 3.99 (3H, s). The IC50 determined as described in Example 6 is less than 1 micromolar.

reactant | 5-chloro-2-(6-methoxy-3-trifluoromethyl-pyridin-2-yl)-[1,8]naphthyridine | 0.2 mmol, 68 mg | ClC1=C2C=CC(=NC2=NC=C1)C1=NC(=CC=C1C(F)(F)F)OC | C15H9ClF3N3O
reactant | cesium carbonate | 0.3 mmol, 98 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2-amino-5-trifluoromethylpyridine | 0.22 mmol, 37 mg | NC1=NC=C(C=C1)C(F)(F)F | C6H5F3N2
reactant | xantphos | 8 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
catalyst | Pd2 dba3 | 12 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | water | 20 mL | O | H2O
product | [7-(6-Methoxy-3-trifluoromethyl-pyridin-2-yl)-[1,8]naphthyridin-4-yl]-(5-trifluoromethyl-pyridin-2-yl)-amine | COC1=CC=C(C(=N1)C1=CC=C2C(=CC=NC2=N1)NC1=NC=C(C=C1)C(F)(F)F)C(F)(F)F | C21H13F6N5O
